US04647398
Commercially available p-hydroxybenzaldehyde (50 g) was dissolved in pyridine (400 ml), followed by dropwise adding octanoyl chloride (80 g) under ice cooling, allowing to stand on a water bath overnight, adding toluene (300 ml), adding 6N-hydrochloric acid, separating the liquid layer, washing with 2N-NaOH aqueous solution, washing with water, drying, and distilling off toluene to obtain a raw product, distilling this product under reduced pressure to obtain p-octanoyloxybenzaldehyde (b.p. 176°~7° C./7 mmHg) (58.2 g), which was then dissolved in acetic acid (80 ml), followed by dropwise adding a mixed solution of chromium trioxide (23.4 g), water (25 ml) and acetic acid (48 ml), stirring at room temperature for 4 hours, pouring on ice, filtering the deposited solids, dissolving the solids in ethanol (300 ml), adding active carbon, shaking, filtering on heating, ice-cooling, separating the deposited crystals by filtering and recrystallizing from ethanol (300 ml) to obtain p-octanoyloxybenzoic acid (35 g). M.p. 51° C. This product (5 g) and oxalic acid chloride (7.2 g) were heated on a water bath at 60° C., followed by allowing to stand overnight, and distilling off excess oxalic acid chloride under reduced pressure to obtain p-octanoyloxybenzoyl chloride (5 g). This product was used in the following step without purification.

reactant | p-hydroxybenzaldehyde | 50 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | octanoyl chloride | 80 g | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | p-octanoyloxybenzaldehyde | 58.2 g | C(CCCCCCC)(=O)OC1=CC=C(C=O)C=C1 | C15H20O3
